US08445499B2
Step 3: tert-butyl-1′-(5-chloropyrazin-2-yl)-4,4′-bipiperidine-1-carboxylate
The tert-butyl 4,4′-bipiperidine-1-carboxylate (1.27 g, 4.7 mmol) and 2,5-dichloropyrazine (670 mg, 4.5 mmol) were dissolved in NMP (5 ml) at room temperature, and 1,8-diazabicyclo[5.4.0]-undec-7-ene (1 mL, 6.8 mmol) added drop-wise. The mixture was heated at 110° C. for 1 h, allowed to cool to r.t. and diluted with 50 mL of ethyl acetate. The solution was washed with water (10 mL ×1), brine (10 mL ×1), dried over magnesium sulfate, filtered, and concentrated in vac. The residue was purified by chromatography on silica gel with 10% acetone:hexanes to yield the title compound.

reactant | tert-butyl 4,4′-bipiperidine-1-carboxylate | 4.7 mmol, 1.27 g | N1(CCC(CC1)C1CCNCC1)C(=O)OC(C)(C)C | C15H28N2O2
reactant | 2,5-dichloropyrazine | 4.5 mmol, 670 mg | ClC1=NC=C(N=C1)Cl | C4H2Cl2N2
reactant | 1,8-diazabicyclo[5.4.0]-undec-7-ene | 6.8 mmol, 1 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | NMP | 5 ml | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl-1′-(5-chloropyrazin-2-yl)-4,4′-bipiperidine-1-carboxylate | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CCN(CC1)C1=NC=C(N=C1)Cl | C19H29ClN4O2
